2171-06-09 06:55:00 Physician Resident Progress Note
Chief Complaint: hyponatremia, acute urinary retention
   24 Hour Events:
   Home meds put into team census.  Glipizide and dilt started.
   Prostate exam reveals enlarged prostate
   u/a + + cipro started x 7 days, awaiitng culture
   Sodium 134 to 131 to 128 while on D5W @ 250 / hr, rate decreased to
   125cc/hr and then 6 hr later Na down to 121, urine more concentrated
   with Na of 60 up from < 10 and osms of 550.  D5W stopped.  4 hours
   later Na 119.  Renal contact[**Name (NI) **]- said to somewhat fluid restrict him (he
   will be sleeping) and check q4-6hrs to slowly increase sodium.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2171-6-8**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-6-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2171-6-9**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 77 (69 - 90) bpm
   BP: 128/67(82) {100/34(50) - 138/95(102)} mmHg
   RR: 13 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  6,046 mL
                                                                    308 mL
   PO:
                                                                  2,900 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  3,146 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                    600 mL
   Urine:
                                                                  2,690 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,356 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   mild bibasilar rales)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   79 K/uL
   11.5 g/dL
   117 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.6 mEq/L
   9 mg/dL
   94 mEq/L
   120 mEq/L
   33.0 %
   3.8 K/uL
        [image002.jpg]
                             [**2171-6-8**]  04:05 AM
                             [**2171-6-8**]  05:00 AM
                             [**2171-6-8**]  09:10 AM
                             [**2171-6-8**]  12:59 PM
                             [**2171-6-9**]  03:57 AM
   WBC
   3.3
   4.6
   3.8
   Hct
   27.8
   35.2
   33.0
   Plt
   92
   87
   79
   Cr
   0.4
   0.6
   0.6
   0.6
   0.5
   TropT
   <0.01
   Glucose
   108
   229
   230
   167
   117
   Other labs: PT / PTT / INR:14.8/40.4/1.3, CK / CKMB /
   Troponin-T:204/14/<0.01, ALT / AST:38/79, Alk Phos / T Bili:184/1.7,
   Amylase / Lipase:37/18, Albumin:3.1 g/dL, LDH:183 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   72 yo M with alcohol abuse, HTN, DM2 who presents with hyponatremia and
   altered mental status.
    # Hyponatremia:
   -likely related to acute urinary retention and then increased PO water
   and ETOH (beer) intake, patient has normal diet which upon description
   is high in salt
   -Na 120, plan to slowly increase by free water restriction, plan to
   increase sodium [**1-2**] meq per hour
   -check q6hrs
   -no neurologic si/sx
   -s/p DDAVP in a.m. on [**6-8**], hold further DDAVP
   # altered mental status: TSH, B12, Folate normal.  Stable cognitive
   difficulty x 1.5 years per wife.  [**Name (NI) 3054**] per PCP that either [**Name9 (PRE) 1818**]
   dementia versus alcohol related dementia.  Patient is very resistent to
   discontinuing ETOH use / abuse.
   # alcohol abuse: no signs / symptoms of withdrawal, CIWA scale q2hrs
   5mg
   -MVI, thiamine and folate
   -cessation counseling and SW consult
   # urinary retention: patient does not know history of BPH but says this
   has happened before (2 weeks ago), per wife this is relatively new and
   she does not know of any problems like this,  No previous BPH type
   symptoms however patient is a very poor historian.   Enlarged prostate
   on exam, no prostatic tenderness, stool staining sheets but no report
   of fecal incontinence, normal lower extremity stregnth, no saddle
   anesthesia
   -spontaneous voiding trial after sodium is under control
   -urology consult- per urology should follow up in clinic on Wednesday
   for outpatient visit and urodynamics, bactrim DS [**Hospital1 **] x 2 weeks
   # UTI: likely secondary to urinary retention, f/u urine culture
   -possibly related to UTI vs. prostatitis vs. prostatic inflammation due
   to retention per urology, f/u cultures
   -resend u/a
   -bactrim as above
   -f/u urology clinic
   # Thrombocytopenia: Likely secondary to alcohol
   - monitor platelets
   # HTN: currently normotensive. restarted dilt 120mg daily.  Hold [**Last Name (un) 239**] /
   HCTZ given electrolyte abnormalities.
   # DM: restart glipizide, hold if NPO, RISS
   # FEN: heart healthy diabetic diet; replete lytes prn; IVFs for sodium
   correction
   # PPX: heparin SQ for DVT ppx, bowel regimen
   # access: PIV
   # code: presumed full. will discuss with wife
   # communication: patient and wife who is on her way into hospital
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-6-8**] 03:59 AM
   22 Gauge - [**2171-6-8**] 04:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  call out from ICU

2171-06-09 10:38:00 Physician Attending Progress Note
Chief Complaint: hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hyponatremia in setting of polydypsia, urinary retention.
   24 Hour Events:
   Started on cipro for possible UTI
   Na 134 yesterday, given free water conservatively but the cautious
   iatrogenic hyponatremia to prevent CPML was confused by prior
   administration of ddavp and he overshot with nadir Na 119 last night.
   Stopped all free water at 121.
   Dr [**First Name (STitle) **] [**Name (NI) 420**] outside hospitals but was unable to find records of
   previous admissions for urologic issues, and pt's wife stated that he
   had no known h/o of similar issues except one episode of urinary
   retention that resolved spontaneously in the recnt past.
   Dr [**First Name (STitle) **] also did prostate exam and found enlarged, boggy prostate,
   nontender.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2171-6-9**] 08:18 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-6-9**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria, Foley
   Flowsheet Data as of  [**2171-6-9**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 77 (69 - 90) bpm
   BP: 131/52(72) {100/34(50) - 141/95(102)} mmHg
   RR: 15 (10 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  6,046 mL
                                                                    790 mL
   PO:
                                                                  2,900 mL
                                                                    640 mL
   TF:
   IVF:
                                                                  3,146 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                  1,110 mL
   Urine:
                                                                  2,690 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,356 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, spider angiomata
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   79 K/uL
   165 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   8 mg/dL
   91 mEq/L
   120 mEq/L
   33.0 %
   3.8 K/uL
        [image002.jpg]
                             [**2171-6-8**]  04:05 AM
                             [**2171-6-8**]  05:00 AM
                             [**2171-6-8**]  09:10 AM
                             [**2171-6-8**]  12:59 PM
                             [**2171-6-9**]  03:57 AM
                             [**2171-6-9**]  09:00 AM
   WBC
   3.3
   4.6
   3.8
   Hct
   27.8
   35.2
   33.0
   Plt
   92
   87
   79
   Cr
   0.4
   0.6
   0.6
   0.6
   0.5
   0.5
   TropT
   <0.01
   Glucose
   108
   229
   230
   167
   117
   165
   Other labs: PT / PTT / INR:14.8/40.4/1.3, CK / CKMB /
   Troponin-T:204/14/<0.01, ALT / AST:38/79, Alk Phos / T Bili:184/1.7,
   Amylase / Lipase:37/18, Albumin:3.1 g/dL, LDH:183 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   Hyponatremia
   Stopped D5 infusion.
   Recheck Na q 6 hrs.
   If next Na is reasonable, will call out to floor.
   Urinary retention
   I suspect chronic prostatitis
   d/c Foley
   Straight cath if necessary for retention.
   If he is unable to void will obtain inpatient urology consult
   Continue empiric cipro, await urine culture results
   Altered mental status
   At baseline according to pt's wife, stable x > 1 year, likely etoh vs
   alzheimer's.
   [**Name (NI) **] wife states he would not change his EtOH intake even if he
   received SW consult, in denial about alcoholism.
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-6-8**] 03:59 AM
   22 Gauge - [**2171-6-8**] 04:00 AM
   Prophylaxis:
   DVT: Boots
   Communication:  Comments:
   Code status: Full code
   Disposition : Base on next Na level

2171-06-10 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2171-6-9**] 03:05 PM
   Patient autodiuresing. Sodium trending up overnight. Started Flomax for
   urinary retention. On bactrim for staph in urine cx 10-100k.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2171-6-9**] 08:18 AM
   Bactrim (SMX/TMP) - [**2171-6-9**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-6-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-6-10**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 77 (59 - 86) bpm
   BP: 105/33(51) {90/31(47) - 141/92(98)} mmHg
   RR: 17 (10 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
                  Total In:
                                                                  1,050 mL
                  PO:
                                                                    900 mL
                  TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  3,420 mL
                                                                  2,570 mL
   Urine:
                                                                  3,420 mL
                                                                  2,570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,370 mL
                                                                 -2,570 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), ii/vi
   systolic murmur at RUSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   82 K/uL
   12.4 g/dL
   133 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.3 mEq/L
   7 mg/dL
   107 mEq/L
   136 mEq/L
   34.9 %
   2.9 K/uL
        [image002.jpg]
                             [**2171-6-8**]  04:05 AM
                             [**2171-6-8**]  05:00 AM
                             [**2171-6-8**]  09:10 AM
                             [**2171-6-8**]  12:59 PM
                             [**2171-6-9**]  03:57 AM
                             [**2171-6-9**]  09:00 AM
                             [**2171-6-9**]  03:05 PM
                             [**2171-6-9**]  06:00 PM
                             [**2171-6-10**]  05:05 AM
   WBC
   3.3
   4.6
   3.8
   2.9
   Hct
   27.8
   35.2
   33.0
   34.9
   Plt
   92
   87
   79
   82
   Cr
   0.4
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.7
   TropT
   <0.01
   Glucose
   108
   229
   230
   167
   117
   165
   129
   91
   133
   Other labs: PT / PTT / INR:14.8/40.4/1.3, CK / CKMB /
   Troponin-T:204/14/<0.01, ALT / AST:38/79, Alk Phos / T Bili:184/1.7,
   Amylase / Lipase:37/18, Albumin:3.1 g/dL, LDH:183 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   72 yo M with alcohol abuse, HTN, DM2 who presents with hyponatremia and
   altered mental status.
     # Hyponatremia:
   -likely related to acute urinary retention and then increased PO water
   and ETOH (beer) intake, patient has normal diet which upon description
   is high in salt
   -Na 120, plan to slowly increase by free water restriction, plan to
   increase sodium [**1-2**] meq per hour
   -check q6hrs
   -no neurologic si/sx
   -s/p DDAVP in a.m. on [**6-8**], hold further DDAVP
   # altered mental status: TSH, B12, Folate normal.  Stable cognitive
   difficulty x 1.5 years per wife.  [**Name (NI) 3054**] per PCP that either [**Name9 (PRE) 1818**]
   dementia versus alcohol related dementia.  Patient is very resistent to
   discontinuing ETOH use / abuse.
   # alcohol abuse: no signs / symptoms of withdrawal, CIWA scale q2hrs
   5mg
   -MVI, thiamine and folate
   -cessation counseling and SW consult
   # urinary retention: patient does not know history of BPH but says this
   has happened before (2 weeks ago), per wife this is relatively new and
   she does not know of any problems like this,  No previous BPH type
   symptoms however patient is a very poor historian.   Enlarged prostate
   on exam, no prostatic tenderness, stool staining sheets but no report
   of fecal incontinence, normal lower extremity stregnth, no saddle
   anesthesia
   -spontaneous voiding trial after sodium is under control
   -urology consult- per urology should follow up in clinic on Wednesday
   for outpatient visit and urodynamics, bactrim DS [**Hospital1 **] x 2 weeks
   # UTI: likely secondary to urinary retention, f/u urine culture
   -possibly related to UTI vs. prostatitis vs. prostatic inflammation due
   to retention per urology, f/u cultures
   -resend u/a
   -bactrim as above
   -f/u urology clinic
   # Thrombocytopenia: Likely secondary to alcohol
   - monitor platelets
   # HTN: currently normotensive. restarted dilt 120mg daily.  Hold [**Last Name (un) 239**] /
   HCTZ given electrolyte abnormalities.
   # DM: restart glipizide, hold if NPO, RISS
   # FEN: heart healthy diabetic diet; replete lytes prn; IVFs for sodium
   correction
   # PPX: heparin SQ for DVT ppx, bowel regimen
   # access: PIV
   # code: presumed full. will discuss with wife
   # communication: patient and wife who is on her way into hospital
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2171-6-8**] 03:59 AM
   22 Gauge - [**2171-6-8**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-06-10 10:09:00 Physician Attending Progress Note
Chief Complaint: hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo man with dementia, adm with hyponatremia due to polydypsia and
   urinary retention.
   24 Hour Events:
 BLOOD CULTURED - At [**2171-6-9**] 03:05 PM
   Na trended up with free water restriction.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2171-6-9**] 08:18 AM
   Bactrim (SMX/TMP) - [**2171-6-9**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-6-10**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-6-10**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 80 (59 - 80) bpm
   BP: 124/49(66) {90/31(47) - 131/92(98)} mmHg
   RR: 10 (10 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
                  Total In:
                                                                  1,050 mL
                                                                    168 mL
   PO:
                                                                    900 mL
                                                                    168 mL
   TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  3,420 mL
                                                                  3,010 mL
   Urine:
                                                                  3,420 mL
                                                                  3,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,370 mL
                                                                 -2,842 mL
   Respiratory support
   O2 Delivery Device: None
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   82 K/uL
   133 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.3 mEq/L
   7 mg/dL
   107 mEq/L
   136 mEq/L
   34.9 %
   2.9 K/uL
        [image002.jpg]
                             [**2171-6-8**]  04:05 AM
                             [**2171-6-8**]  05:00 AM
                             [**2171-6-8**]  09:10 AM
                             [**2171-6-8**]  12:59 PM
                             [**2171-6-9**]  03:57 AM
                             [**2171-6-9**]  09:00 AM
                             [**2171-6-9**]  03:05 PM
                             [**2171-6-9**]  06:00 PM
                             [**2171-6-10**]  05:05 AM
   WBC
   3.3
   4.6
   3.8
   2.9
   Hct
   27.8
   35.2
   33.0
   34.9
   Plt
   92
   87
   79
   82
   Cr
   0.4
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.7
   TropT
   <0.01
   Glucose
   108
   229
   230
   167
   117
   165
   129
   91
   133
   Other labs: PT / PTT / INR:14.8/40.4/1.3, CK / CKMB /
   Troponin-T:204/14/<0.01, ALT / AST:38/79, Alk Phos / T Bili:184/1.7,
   Amylase / Lipase:37/18, Albumin:3.1 g/dL, LDH:183 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Hyponatremia, resolved with free water restriction.
   Autodiuresing.
   Renal service directing plan.
   Urinary retention, failed voiding trial yesterday. Plan for home with
   Foley catheter, f/u as outpt with urology service.
   Transfer to floor.
   EtOH- no signs of withdrawal.
   Staph UTI- on bactrim.
   Pancytopenia- likely secondary to alcoholism.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-6-8**] 03:59 AM
   22 Gauge - [**2171-6-8**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: